US08012986B2
3-{4-[4-Difluoromethyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidin-2-yl]-pyridin-2-yl}-benzenesulfonamide
To a cooled and stirred solution of 3-{4-[4-difluoromethyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidin-2-yl]-pyridin-2-yl}-benzenesulfonic acid tert-butylamide (0.16 g) in dichloromethane (4 ml) was added TFA (4 ml) and the reaction mixture was allowed to stir at room temperature for 15 h. The mixture was evaporated to dryness, poured into 2N Na2CO3 solution (25 ml) and extracted with ethyl acetate (3×50 ml). The combined organic layers were washed with brine (50 ml), dried (MgSO4) and evaporated. Further purification by column chromatography on silica gel (dichloromethane/MeOH/NH4OH 16:1:0.1) and trituration (diethyl ether) yielded the title compound as a white solid (0.056 g, 22%). MS (ISP) 508.1 [(M+H)+]; mp 264.5° C.

reactant | 3-{4-[4-difluoromethyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidin-2-yl]-pyridin-2-yl}-benzenesulfonic acid tert-butylamide | 0.16 g | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=NC=CC(=C1)C1=NC(=CC(=N1)C(F)F)C=1C=NC(=CC1)C(F)(F)F | C26H22F5N5O2S
reactant | TFA | 4 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 3-{4-[4-Difluoromethyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidin-2-yl]-pyridin-2-yl}-benzenesulfonamide | 0.056 g, 22% | FC(C1=NC(=NC(=C1)C=1C=NC(=CC1)C(F)(F)F)C1=CC(=NC=C1)C=1C=C(C=CC1)S(=O)(=O)N)F | C22H14F5N5O2S
